US06894045B2
7-benzyloxymethyl-3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-3,7-dihydro-1H-purine-2,6-dione (5.20 g, 11.32 mmol) was dissolved in dioxane (25 mL) and the mixture was treated with EtOH (25 mL) and aqueous NaOH (50 mL, 3 N). The reaction mixture was heated at 60° C. for 2 h. The mixture was then cooled to rt and was transferred to a separatory funnel containing saturated aqueous NaHCO3 (100 mL). The aqueous layer was extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by column chromatography on silica gel (40% ethyl acetate in hexanes→40% ethyl acetate in hexanes with 0.2% MeOH) to afford 1-benzyloxymethyl-4-[(2,4-dichlorophenyl)amino]-2-ethyl-N-methyl-1H-imidazole-5-carboxamide (2.90 g, 59% yield) as a light yellow amorphous solid: 1H NMR (300 MHz, CDCl3) δ 9.35 (s, 1H), 8.41 (d, J=8.8 Hz, 1H), 7.44-7.29 (m, 7H), 7.16 (dd, J=9.1, 2.5 Hz, 1H), 5.45 (s, 2H), 4.63 (s, 2H), 2.89 (d, J=4.8 Hz, 3H); 2.65 (q, J=7.7 Hz, 2H), 1.35 (t, J=7.7 Hz, 3H); LRMS (APCI) m/e 433.1 [(M+H)+, calcd for C21H23N4O2Cl2 433.1].

reactant | 7-benzyloxymethyl-3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-3,7-dihydro-1H-purine-2,6-dione | 11.32 mmol, 5.20 g | C(C1=CC=CC=C1)OCN1C(=NC=2N(C(N(C(C12)=O)C)=O)C1=C(C=C(C=C1)Cl)Cl)CC | C22H20Cl2N4O3
reactant | EtOH | 25 mL | CCO | C2H6O
reactant | NaOH | 3 N, 50 mL | [OH-].[Na+]
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 1-benzyloxymethyl-4-[(2,4-dichlorophenyl)amino]-2-ethyl-N-methyl-1H-imidazole-5-carboxamide | 2.90 g, 59% yield | C(C1=CC=CC=C1)OCN1C(=NC(=C1C(=O)NC)NC1=C(C=C(C=C1)Cl)Cl)CC | C21H22Cl2N4O2
